US07897631B2
tert-butyl 2-amino-4-(hept-6-ynyl)-1H-imidazole-1-carboxylate (0.111 g, 0.401 mmol) was reacted with N-(2-azidoethyl)tetradecanamide (0.130 g, 0.401 mmol) following the general click procedure to give tert-butyl 2-amino-4-(5-(1-(2-tetradecanamidoethyl)-1H-1,2,3-triazol-4-yl)pentyl)-1H-imidazole-1-carboxylate 1H NMR (300 MHz, CDCl3) δ 7.26 (s, 1H), δ 6.85 (s, 1H), δ 6.42 (s, 1H), δ 6.05 (s, 1H), δ 4.38 (s, 2H), δ 3.66 (s, 2H), δ 2.60 (s, 2H), δ 2.11 (s, 2H), δ 2.08 (t, 2H), δ 1.41 (m, 13H), δ 1.32 (s, 2H), δ 1.17 (s, 18H), δ 0.77 (t, 3H) ppm; 13C NMR (75 MHz, CDCl3) δ 202.9, 174.3, 149.6, 148.3, 121.9, 100.1, 84.8, 49.5, 42.3, 39.5, 36.7, 32.1, 29.9, 29.8, 29.7, 29.6, 29.5, 29.5, 29.3, 28.9, 28.1, 25.9, 25.6, 22.9, 14.3 ppm; HRMS (ESI) calcd for C31H55N7O3 (M+) 573.4366. found 573.4365, which was subsequently deprotected to give N-(2-(4-(5-(2-amino-1H-imidazol-4-yl)pentyl)-1H-1,2,3-triazol-1-yl)ethyl)tetradecanamide hydrochloride (0.118 g, 87% yield). 1H NMR (400 MHz, CD3OD) δ 8.51 (s, 1H), δ 6.53 (s, 1H), δ 4.71 (s, 2H), δ 3.75 (s, 2H), δ 2.89 (s, 2H), δ 2.54 (t, 2H), δ 2.17 (t, 2H), δ 1.80 (s, 2H), δ 1.69 (s, 2H), δ 1.54 (s, 2H), δ 1.48 (s, 2H), δ 1.28 (s, 20H), 0.88 (t, 3H) ppm; 13C NMR (100 MHz, CD3OD) δ 175.6, 161.8, 147.2, 127.6, 127.4, 108.5, 52.3, 38.8, 36.6, 35.8, 31.9, 30.6, 29.7, 29.6, 29.5, 29.4, 29.2, 28.0, 27.9, 27.7, 25.8, 24.1, 23.6, 23.4, 22.6, 13.4 ppm; HRMS (ESI) calcd for C26H47N7O (M+) 473.3842. found 473.3834.

reactant | tert-butyl 2-amino-4-(hept-6-ynyl)-1H-imidazole-1-carboxylate | 0.401 mmol, 0.111 g | NC=1N(C=C(N1)CCCCCC#C)C(=O)OC(C)(C)C | C15H23N3O2
reactant | N-(2-azidoethyl)tetradecanamide | 0.401 mmol, 0.130 g | N(=[N+]=[N-])CCNC(CCCCCCCCCCCCC)=O | C16H32N4O
product | tert-butyl 2-amino-4-(5-(1-(2-tetradecanamidoethyl)-1H-1,2,3-triazol-4-yl)pentyl)-1H-imidazole-1-carboxylate | NC=1N(C=C(N1)CCCCCC=1N=NN(C1)CCNC(CCCCCCCCCCCCC)=O)C(=O)OC(C)(C)C | C31H55N7O3
